US06573289B1
Production of 1-(1H-Imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)-2,2,2-trifluoroethanol
(6-Methoxynaphthalen-2-yl)-(1-trityl-1H-imidazol-4-yl)ketone (1.0 g) was dissolved in THF (10 ml) and to the solution was added trifluoromethyltrimethylsilane (1.40 g). The reaction mixture was cooled to 0° C., and tetrabutylammonium fluoride (0.4 ml) was added. The mixture was stirred at room temperature for 2 h. To the mixture were added 1 N-hydrochloric acid (10 ml) and isopropanol (5 ml), and the mixture was stirred at room temperature for 24 h. The reaction mixture was neutralized, and extracted with ethyl acetate. The extract was washed with saturated aqueous solution of sodium chloride, dried and concentrated. The residue was purified by silica gel column chromatography (eluent, chloroform methanol=20:1→10:1). Recrystallization from ethyl acetate gave the titled compound (0.40 g) as a colorless powder.

reactant | (6-Methoxynaphthalen-2-yl)-(1-trityl-1H-imidazol-4-yl)ketone | 1.0 g | COC=1C=C2C=CC(=CC2=CC1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H26N2O2
reactant | trifluoromethyltrimethylsilane | 1.40 g | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | 0.4 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 1-(1H-Imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)-2,2,2-trifluoroethanol | 0.40 g | N1C=NC(=C1)C(C(F)(F)F)(O)C1=CC2=CC=C(C=C2C=C1)OC | C16H13F3N2O2
